US05075310
2-(2-Propoxyphenyl)thieno[2,3-d]pyrimidin-4(3H)-one
A stirred mixture of 2-(propoxybenzamido)-thiophene-3-carboxamide (0.90 g) and pyridine (1 ml) in 2 Normal sodium hydroxide (25 ml) was heated under reflux for 2 hours. The cooled reaction mixture was neutralised with concentrated hydrochloric acid to afford a precipitate and the resulting mixture was extracted with chloroform (3×25 ml). The combined extracts were washed with water (20 ml) and brine (20 ml), dried (magnesium sulphate) and evaporated under reduced pressure to afford a crude product which was recrystallised from ethanol-water to afford the title compound, 0.41 g, m.p. 115°-117° C.

reactant | 2-(propoxybenzamido)-thiophene-3-carboxamide | 0.90 g | C(CC)OC1=C(C(=O)NC=2SC=CC2C(=O)N)C=CC=C1 | C15H16N2O3S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Propoxyphenyl)thieno[2,3-d]pyrimidin-4(3H)-one | C(CC)OC1=C(C=CC=C1)C=1NC(C2=C(N1)SC=C2)=O | C15H14N2O2S
